US07884101B2
Preparation of pentanoic acid {3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-(4-hydroxy-piperidin-1-yl)ethoxy]-phenyl}-amide (Compound 179). Method U
A mixture of 1-{2-[4-amino-2-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-piperidin-4-ol (50 mg, 0.126 mmol), valeric anhydride (28 mg, 0.15 mmol) and triethylamine (0.1 mL) in DMF (1 mL) was heated with microwaves at 80° C. for 10 minutes. The crude was purified by HPLC to provide the title compound as a yellow solid (27 mg, 45%). 1H NMR (DMSO-d6, 400 MHz) δ 0.90 (t, J=7.33 Hz, 3H), 1.33 (quar, J=7.58 Hz, 2H), 1.47-1.51 (m, 1H), 1.57 (quin, J=7.58 Hz, 2H), 1.68-1.90 (m, 2H), 2.30 (t, J=7.33 Hz, 2H), 2.75-3.30 (m, 6H), 3.40-3.43 (m, 2H), 3.70-3.71 (m, 3H), 3.85-3.90 (m, 1H), 4.22-4.50 (m, 2H), 7.22 (d, J=9.35 Hz, 1H), 7.53 (d, J=2.53 Hz, 1H), 7.64 (d, J=8.84 Hz, 1H), 7.76 (dd, J=2.53, 9.09 Hz, 1H), 9.37 (s, br, 1H), 9.98 (s, 1H). Exact mass calculated for C22H31BrN4O3 478.2. found 479.3 (MH+).

reactant | 1-{2-[4-amino-2-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-piperidin-4-ol | 0.126 mmol, 50 mg | NC1=CC(=C(OCCN2CCC(CC2)O)C=C1)C=1N(N=CC1Br)C | C17H23BrN4O2
reactant | valeric anhydride | 0.15 mmol, 28 mg | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | pentanoic acid {3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-(4-hydroxy-piperidin-1-yl)ethoxy]-phenyl}-amide | 27 mg, 45% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCC(CC1)O)NC(CCCC)=O | C22H31BrN4O3
